US09255090B2
To a solution under N2 of trimethylsulfoxonium iodide (3.89 g, 17.7 mmol, 2 eq.) in DMSO (10 mL) cooled at r.t. with a water bath, sodium hydride 60% dispersion in mineral oil (707 mg, 17.7 mmol, 2 eq.) was added portionwise over 10 min. The resulting mixture was stirred at r.t. for 1 hour. A solution of (E)-N-methoxy-N-methyl-3-(pyridin-2-yl)acrylamide (1.70 g, 8.8 mmol, 1 eq.) in DMSO (5 mL) was added and the reaction mixture was stirred at r.t. for 18 hours. The reaction mixture was poured in sat. aq. NH4Cl soln. (50 mL) and extracted with DCM (3×50 mL). The comb. org. phases were washed with sat. aq. NaCl soln. (1×50 mL), dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane+20% AcOEt to Heptane+80% AcOEt) to yield (±)-(trans)-2-pyridin-2-yl-cyclopropanecarboxylic acid methoxy-methyl-amide as an yellow oil.

reactant | trimethylsulfoxonium iodide | 17.7 mmol, 3.89 g, 2 eq. | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | (E)-N-methoxy-N-methyl-3-(pyridin-2-yl)acrylamide | 8.8 mmol, 1.70 g, 1 eq. | CON(C(\C=C\C1=NC=CC=C1)=O)C | C10H12N2O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | NH4Cl | [NH4+].[Cl-]
product | (±)-(trans)-2-pyridin-2-yl-cyclopropanecarboxylic acid methoxy-methyl-amide | CON(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C | C11H14N2O2
